Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:16].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.52419389737
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]=[C:3]([H:4])/[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16],1.93835288632
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6]=[C:7]([H:8])[C:9]([H:10])[H:11],0.210757852459
[H:1][O:2][C:3][C@@:4]1([H:5])[C:6]([O:7][H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-1.94162033552
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][H:10].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.19133603889
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([H:4])[H:5],3.90309524571
[C:3]#[C:4][H:5].[O:1]=[C:2]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C@@:2]([C:3]#[C:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.04998057207
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]1([H:7])[O:8][C:9]1=[C:10]([H:11])[H:12],-1.98258310182
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3],0.651905679551
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],4.93009224156
[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1][C:2]#[C:3][H:4],5.87900704811
[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](/[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.685736361869999
[H:5].[O:1][O:2]/[C:3]([H:4])=[C:6](/[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.9956016994200003
[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.60180832809
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7],4.91473571146
[H:1][C:2][C:3]1([H:4])[O:5][O:6]1>>[H:1][C:2]=[C:3]([H:4])[O:6][O:5],-1.03849279746
[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],1.56573454351
[C:7]=[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-3.18550435071
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9].[O:10][H:11],3.5427952259800004
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])[H:15],4.589438735480001
[H:1][C:2]1=[C:3][C:4]([H:5])=[C:6]([H:7])[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])=[O:8])[C:9]([H:10])[H:11],-0.5168253759100001
[H:1][C:2]#[C:3][C:4]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.39864856919
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:13]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.49014307452
[H:1][C:2]=[C:3]([C:4]#[C:5][O:6][H:7])[O:8][H:9]>>[C:4]#[C:5][O:6][H:7].[H:1][C:2]#[C:3][O:8][H:9],2.92753397552
[O:1]=[C:2][C@:6]([C:3]#[C:4][H:5])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]1[C:3](=[C:4][H:5])[C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],0.98772737044
[C:4]#[C:5][O:6][C:7]([H:8])[H:9].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[H:9],-6.7811491441
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.28208515791
[H:1][O:2][C:3]([O:4][H:5])=[C:6][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.030971646419999
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-4.43534164423
